US06780870B2
4-[4-(Methylsulfonyl)phenyl]-N-(pyridin-3-ylmethyl)-6-(trifluoromethyl)pyrimidin-2-amine
To a stirred solution of 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine (0.10 g, 0.26 mmol) in MeCN (3 ml) was added 3-(aminomethyl)-pyridine (169 mg, 6 eq) and the resultant solution heated under reflux for 3 h. The cooled reaction mixture was concentrated in vacuo and the resulting oil purified by SPE chromatography with chloroform then chloroform:methanol (50:1) as eluant. This gave the title compound as a yellow solid (100 mg, 93%).

reactant | 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine | 0.26 mmol, 0.10 g | CS(=O)(=O)C1=NC(=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C13H11F3N2O4S2
reactant | 3-(aminomethyl)-pyridine | 169 mg, 6 eq | NCC=1C=NC=CC1 | C6H8N2
solvent | MeCN | 3 ml | CC#N | C2H3N
product | 4-[4-(Methylsulfonyl)phenyl]-N-(pyridin-3-ylmethyl)-6-(trifluoromethyl)pyrimidin-2-amine | 100 mg, 93% | CS(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)NCC=1C=NC=CC1 | C18H15F3N4O2S
